US09371305B2
Step 1: 1-methoxy-2-methylbenzene
o-cresol (3.0 g, 0.028 mol) and anhydrous potassium carbonate (7.7 g, 0.056 mol) were dissolved into 50 ml of DMF and then iodomethane (3.9 g, 0.028 mmol) was dropped under an ice bath. The system was stirred overnight at room temperature. At the end of reaction, the reaction system was added with water and then extracted with ethyl acetate, and the organic phase was washed with saturated brine, then dried and evaporated in vacuum to obtain 3 g of the product (89%) by column chromatography.

reactant | o-cresol | 0.028 mol, 3.0 g | C1(=CC=CC=C1O)C | C7H8O
reactant | potassium carbonate | 0.056 mol, 7.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | iodomethane | 0.028 mmol, 3.9 g | IC | CH3I
solvent | water | O | H2O
product | 1-methoxy-2-methylbenzene | 3 g, 89% | COC1=C(C=CC=C1)C | C8H10O
